US09120749B2
Methyl 3-(4-bromo-3-fluorophenylamino)-2-(cyclopropanecarbonyl)acrylate
A stirred mixture of methyl 3-cyclopropyl-3-oxopropanoate (3.49 g, 26.3 mmol), triethyl orthoformate (5.2 mL, 31.6 mmol), and 4-bromo-3-fluoroaniline (4.47 g, 26.0 mmol) was heated at 140° C. overnight with a Dean Stark trap. After this time the reaction was cooled to room temperature, diluted with methylene chloride and filtered through a pad of silica. The filtrate was concentrated to afford the desired product (7.5 g, 85%) as a light yellow solid: ESI MS m/z 343 [C14H13BrFNO3+H]+.

reactant | methyl 3-cyclopropyl-3-oxopropanoate | 26.3 mmol, 3.49 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | triethyl orthoformate | 31.6 mmol, 5.2 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-bromo-3-fluoroaniline | 26.0 mmol, 4.47 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 3-(4-bromo-3-fluorophenylamino)-2-(cyclopropanecarbonyl)acrylate | 7.5 g, 85% | BrC1=C(C=C(C=C1)NC=C(C(=O)OC)C(=O)C1CC1)F | C14H13BrFNO3
